US05288743
A solution of 4-acetamidophenol (20.0 g; 132.3 mmol), 2-bromopyridine (41.8 g; 265 mmol), potassium carbonate (28.3 g; 205 mmol) and Cu° (4.2 g; 66 mmol) in 130 mL pyridine was heated at reflux for 2 days. The reaction was cooled to ambient temperature and filtered through celite. The filtrate was diluted with ethyl acetate and washed with water. The extracts were dried over magnesium sulfate and the solvent was removed under reduced pressure. The material was partially purified by flash chromatography (3% methanol in dichloromethane) and then recrystallized from ethyl acetate/hexane to give N-acetyl-4-(pyrid-2-yloxy)aniline.

reactant | 4-acetamidophenol | 132.3 mmol, 20.0 g | C(C)(=O)NC1=CC=C(C=C1)O | C8H9NO2
reactant | 2-bromopyridine | 265 mmol, 41.8 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | potassium carbonate | 205 mmol, 28.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | pyridine | 130 mL | N1=CC=CC=C1 | C5H5N
product | N-acetyl-4-(pyrid-2-yloxy)aniline | C(C)(=O)NC1=CC=C(C=C1)OC1=NC=CC=C1 | C13H12N2O2
